US04291039
Methyl 6-Fluoro-1,2,3,4-Tetrahydro-β-Carboline-1-Carboxylate Hydrochloride (TR-8229)
The title compound was prepared by mixing 6-fluoro-1,2,3,4-tetrahydro-β-carboline-1-carboxylic acid (2 g; 0.0085 mole) with 60 ml of methanol. After cooling at 0° C., thionyl chloride (2 ml., 0.028 mole) was added dropwise and the mixture stirred at room temperature for 24 hours whereupon the solvent was removed in vacuo. The residue was partitioned in ethylacetate/6% K2CO3 solution whereupon the organic phase was dried over MgSO4, filtered and treated with 4 N HCl in dioxane to pH 5. A white solid product was collected. Yield: 1.2 g (38%) MP 219°-220° C.

reactant | 6-fluoro-1,2,3,4-tetrahydro-β-carboline-1-carboxylic acid | 0.0085 mole, 2 g | FC=1C=C2C=3CCNC(C3NC2=CC1)C(=O)O | C12H11FN2O2
reactant | thionyl chloride | 0.028 mole, 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 60 ml | CO | CH4O
product | Methyl 6-Fluoro-1,2,3,4-Tetrahydro-β-Carboline-1-Carboxylate Hydrochloride | Cl.FC=1C=C2C=3CCNC(C3NC2=CC1)C(=O)OC | InChI=1S/C13H13FN2O2.ClH/c1-18-13(17)12-11-8(4-5-15-12)9-6-7(14)2-3-10(9)16-11;/h2-3,6,12,15-16H,4-5H2,1H3;1H
